US05527791
Allyl 3-aminobenzyloxyacetate was condensed with (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-carboxypyrrolidine by the method described in example 3 for allyl 3-aminophenoxyacetate, except that crude product was purified by chromatography on silica, using a gradient from di-chloromethane to dichloromethane/diethyl ether (85:15), to give (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(3(allyloxycarbonylmethoxymethyl)phenylcarbamoyl)pyrrolidine.

reactant | Allyl 3-aminobenzyloxyacetate | NC=1C=C(COCC(=O)OCC=C)C=CC1 | C12H15NO3
reactant | (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-carboxypyrrolidine | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)C(=O)O | C11H15NO5S
reactant | allyl 3-aminophenoxyacetate | NC=1C=C(OCC(=O)OCC=C)C=CC1 | C11H13NO3
product | (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(3(allyloxycarbonylmethoxymethyl)phenylcarbamoyl)pyrrolidine | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)C(NC1=CC(=CC=C1)COCC(=O)OCC=C)=O | C23H28N2O7S
